US07932246B2
tert-Butyl (3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)methylcarbamate
(3-Benzyl-3-azabicyclo[3.1.0]hex-6-yl)methylamine (1.35 g, 6.68 mmol) was stirred in dioxane/H2O (9:1, 100 ml) at r.t. Triethylamine (1.4 ml, 10.02 mmol) was added followed by Boc2O (1.46 g, 6.7 mmol) and the reaction stirred for 30 min. H2O (100 ml) was then added and the solution extracted with Et2O (2×150 ml). The combined organic extracts were dried (MgSO4) and solvent removed in vacuo to give the product as a yellow oil (2.01 g, 100%). LCMS purity 95%, m/z 303 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.27 (2H, m), 1.43 (10H, s), 2.35 (2H, dm, J=8.7 Hz), 2.96 (2H, d, J=8.7 Hz), 3.59 (2H, s), 4.66 (1H, br s), 7.21-7.33 (5H, m).

reactant | (3-Benzyl-3-azabicyclo[3.1.0]hex-6-yl)methylamine | 6.68 mmol, 1.35 g | C(C1=CC=CC=C1)N1CC2C(C2C1)CN | C13H18N2
reactant | Triethylamine | 10.02 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 6.7 mmol, 1.46 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 100 ml | O | H2O
solvent | dioxane H2O | 100 ml | O1CCOCC1.O
product | tert-Butyl (3-benzyl-3-azabicyclo[3.1.0]hex-6-yl)methylcarbamate | 2.01 g, 100% | C(C1=CC=CC=C1)N1CC2C(C2C1)CNC(OC(C)(C)C)=O | C18H26N2O2
